US04009208
A mixture containing 27.8 g. of 4-(2,2-dichlorovinyloxy)benzoic acid and 278 ml. of thionyl chloride was stirred and refluxed on a steam bath for 3 hours. The excess thionyl chloride was distilled off, first at atmospheric pressure and then at reduced pressure. Ethylene dichloride was added to the liquid residue and the solution evaporated in vacuo to remove the ethylene dichloride and remaining traces of thionyl chloride. There was thus obtained a quantitative yield of 4-(2,2-dichlorovinyloxy)benzoyl chloride as a pale yellow, non-volatile liquid.

reactant | 4-(2,2-dichlorovinyloxy)benzoic acid | ClC(=COC1=CC=C(C(=O)O)C=C1)Cl | C9H6Cl2O3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 4-(2,2-dichlorovinyloxy)benzoyl chloride | quantitative yield | ClC(=COC1=CC=C(C(=O)Cl)C=C1)Cl | C9H5Cl3O2
